US06790860B2
1.7 g (2.9 mmol) (2S,4R)-2-Azidomethyl-1-(naphthalene-2-sulfonyl)-4-tritylsulfanyl-pyrrolidine were treated with 2.3 g (8.8 mmol, 3 eq) of triphenyl phosphine in 12 ml THF and 0.5 ml H2O for 2 days at RT. The solution was diluted with EtOAc, extracted with H2O and aqueous saturated NaHCO3 solution, washed with brine, dried over Na2SO4 and evaporated. The residue was purified by flash chromatography on silica gel with CH2Cl2/MeOH 95:5 yielded 1.6 g (99%) (2S,4R)-C-[1-(naphthalene-2-sulfonyl)-4-tritylsulfanyl-pyrrolidin-2-yl]-methylamine as white foam, MS: 565 (MH+).

reactant | (2S,4R)-2-Azidomethyl-1-(naphthalene-2-sulfonyl)-4-tritylsulfanyl-pyrrolidine | 2.9 mmol, 1.7 g | N(=[N+]=[N-])C[C@H]1N(C[C@@H](C1)SC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)S(=O)(=O)C1=CC2=CC=CC=C2C=C1 | C34H30N4O2S2
reactant | triphenyl phosphine | 8.8 mmol, 2.3 g, 3 eq | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
solvent | THF | 12 ml | C1CCOC1 | C4H8O
solvent | H2O | 0.5 ml | O | H2O
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | (2S,4R)-C-[1-(naphthalene-2-sulfonyl)-4-tritylsulfanyl-pyrrolidin-2-yl]-methylamine | 1.6 g, 99% | C1=C(C=CC2=CC=CC=C12)S(=O)(=O)N1[C@@H](C[C@H](C1)SC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)CN | C34H32N2O2S2
